US07612075B2
To a solution of 30% TFA/CH2Cl2 (10 mL) is added 4-cyanomethyl-piperazine-1-carboxylic acid tert-butyl ester (1.7 g, 6.8 mmol) and the reaction is stirred for 14 h. The reaction is concentrated and chromatoghraphed using silica gel (%1 NH4OH/7% MeOH/CH2Cl2) to isolate piperazin-1-yl-acetonitrile as the free base. 1H NMR (300 MHz, CDCl3) δ4.36 (s, 2H), 3.54 (s, 2H), 3.45 (t, 2H), 3.13 (t, 2H).

reactant | 4-cyanomethyl-piperazine-1-carboxylic acid tert-butyl ester | 6.8 mmol, 1.7 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC#N | C11H19N3O2
solvent | TFA CH2Cl2 | 10 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | piperazin-1-yl-acetonitrile | N1(CCNCC1)CC#N | C6H11N3
